US07687509B2
Synthesis of Ethyl 5-methyl-1,3,4-oxadiazole-2-carboxylate.
To a solution of ethyl 2-(2-acetylhydrazinyl)-2-oxoacetate (0.50 g, 2.87 mmol) in CH2Cl2 (10 mL) was added triethylamine (0.53 mL, 3.73 mmol) and p-TsCl (0.65 g, 3.44 mmol) in three portions. The reaction mixture was stirred at rt for 8 h then was diluted with CH2Cl2 and washed with water. The organic layer was dried (Na2SO4), filtered and concentrated in vacuo. The crude was purified by column chromatography using EtOAc/hexanes to give the title compound as an off-white solid (375 mg, 84%). 1H NMR (300 MHz, CDCl3): δ 4.51 (2H, q, J=7 Hz), 2.65 (3H, s), 1.52 (3H, t, J=5 Hz). MS (M+H): 157.1.

reactant | ethyl 2-(2-acetylhydrazinyl)-2-oxoacetate | 2.87 mmol, 0.50 g | C(C)(=O)NNC(C(=O)OCC)=O | C6H10N2O4
reactant | triethylamine | 3.73 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-methyl-1,3,4-oxadiazole-2-carboxylate | 375 mg, 84% | CC1=NN=C(O1)C(=O)OCC | C6H8N2O3
